US09421205B2
(f) tert-Butyl 4-(4-((4-(2-(3-(2-amino-2-oxoethyl)pyrazin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I104)
tert-Butyl 4-(4-((4-(2-(3-(2-ethoxy-2-oxoethyl)pyrazin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I103) (142 mg, 0.231 mmol) was dissolved in THF (10 mL) and methanol (5 mL) then a solution of lithium hydroxide monohydrate (48.0 mg, 1.16 mmol) in water (2.5 mL) was added. The mixture was stirred at room temperature for 17 hours, and then concentrated. The residue was evaporated twice from toluene then dissolved in DMF (20 mL) and ammonium chloride (62 mg, 1.2 mmol), HOBt (47 mg, 0.35 mmol), PyBOP (181 mg, 0.347 mmol) and DIPEA (0.161 mL, 0.924 mmol) were added. After two hours the mixture was quenched with water (1 mL), concentrated and the residue partitioned between 1:3 saturated brine:water (30 mL) and ethyl acetate (20 mL). The aqueous phase was washed with ethyl acetate (3×20 mL) then the combined ethyl acetate phases were washed with brine (50 mL), dried (sodium sulfate) and evaporated. The residue was chromatographed (12 g silica cartridge, 20-100% ethyl acetate/petroleum benzine 40-60° C. then 100% ethyl acetate for 10 column volumes) to give the title compound (I104) (66.2 mg, 49% yield) as a colourless syrup; 1H NMR (400 MHz, d4-MeOD) δ 8.40 (d, J=0.6 Hz, 1H), 8.29 (d, J=2.6 Hz, 1H), 8.24 (d, J=2.5 Hz, 1H), 7.40 (d, J=8.3 Hz, 2H), 7.09-7.01 (m, 2H), 4.10 (d, J=13.3 Hz, 2H), 3.81-3.75 (m, 2H), 3.34-3.23 (m, 4H), 2.76 (br s), 2.58 (tt, J=12.0, 3.4 Hz, 1H), 1.71 (d, J=12.2 Hz, 2H), 1.47 (ddd, J=25.5, 12.8, 4.3 Hz, 2H), 1.38 (s, 9H). LCMS Method C: 6.17 min; m/z 586.1 [M+H]+, 530.1 [M-tBu+2H]+, 486.1 [M-Boc+2H]+; m/z 584.2 [M−H]−.

reactant | tert-Butyl 4-(4-((4-(2-(3-(2-ethoxy-2-oxoethyl)pyrazin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.231 mmol, 142 mg | C(C)OC(CC=1C(=NC=CN1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H37F3N6O4
reactant | lithium hydroxide monohydrate | 1.16 mmol, 48.0 mg | O.[OH-].[Li+]
reactant | ammonium chloride | 1.2 mmol, 62 mg | [Cl-].[NH4+]
reactant | HOBt | 0.35 mmol, 47 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | PyBOP | 0.347 mmol, 181 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.924 mmol, 0.161 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | tert-Butyl 4-(4-((4-(2-(3-(2-amino-2-oxoethyl)pyrazin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 49% yield | NC(CC=1C(=NC=CN1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C29H34F3N7O3
